US05359059
A solution of (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-{(1R)-1-]((4R)-pyrrolidine-2-thion-4-ylthio)carbonyl]-ethyl}-1-(allyloxycarbonylmethyl)-2-azetidinone (1.028 g) in tetrahydrofuran (6 ml) is added dropwise to 1M solution (6.6 ml) of sodium bis(trimethylsilyl)amide in tetrahydrofuran at -60° C. to -50° C. over a period of 5 minutes. The mixture is stirred at -50° C. for 10 minutes, and thereto is added trimethylchlorosilane (0.58 ml) at -60° C. The mixture is stirred at the same temperature for 15 minutes, and thereto is added diphenyl chlorophosphate (0.44 ml) at -60° C. The mixture is stirred at 0° C. for 1.5 hour, and to the reaction mixture is added dimethylformamide (10 ml) at 0° C., and further thereto is added dropwise 1M solution (1.6 ml) of tetra-n-butylammonium fluoride in tetrahydrofuran at -60° C. The mixture is stirred at -50° C. for 30 minutes, and warmed to -20° C. over a period of one hour. After the reaction is complete, the reaction solution is poured into a phosphate buffer (pH 7.0, 20 ml), and the mixture is extracted with ethyl acetate. The aqueous layer is extracted with ethyl acetate, and the ethyl acetate layers are combined, washed twice with water, dried over magnesium sulfate, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (solvent; n-hexane:chloroform:ethyl acetate=5:5:4) to give (1R,5S,6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-](1R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid allyl ester (575 mg).

reactant | 1-(allyloxycarbonylmethyl)-2-azetidinone | 1.028 g | C(C=C)OC(=O)CN1C(CC1)=O | C8H11NO3
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | trimethylchlorosilane | 0.58 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | diphenyl chlorophosphate | 0.44 ml | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | phosphate | 20 ml, pH 7.0 | P(=O)([O-])([O-])[O-]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-methylcarbapen-2-em-3-carboxylic acid allyl ester | 575 mg | C(C=C)OC(=O)C1=CC([C@H]2N1C(C2)=O)C | C11H13NO3
